US09422244B2
7.0 g (1 mol equiv.) N-(2-Bromo-4-{[(4,4-dimethyl-4,5-dihydro-pyrazol-1-yl)-ethylamino-methylene]-sulfamoyl}-phenyl)-2,2,2-trifluoro-acetamide was dissolved in 225 mL methanol; 10.3 g (5 mol equiv.) potassium carbonate and 30 mL water were added and the reaction mixture was refluxed for 2.5 hours. Volatiles were evaporated under reduced pressure, and the residue was taken up in ethyl acetate and extracted with 2N NaOH. The organic layer was dried over Na2SO4, filtered and concentrated on silica gel. Purification by flash chromatography on silica gel (Et2O) afforded 4.1 g (73%) 4-amino-3-bromo-N-[(4,4-dimethyl-4,5-dihydro-pyrazol-1-yl)-ethylamino-methylene]-benzenesulfonamide. 1H NMR (400 MHz, CDCl3) δ 1.17 (t, J=7.3 Hz, 3H), 1.21 (s, 6H), 3.43-3.52 (m, 2H), 3.74 (br.s., 2H), 4.45 (br.s., 2H), 6.73 (s, 1H), 6.75 (d, J=8.4 Hz, 1H), 6.83-6.92 (br.s., 1H), 7.65 (dd, J=8.4, 2.0 Hz, 1H), 7.99 (d, J=2.0 Hz, 1H).

reactant | N-(2-Bromo-4-{[(4,4-dimethyl-4,5-dihydro-pyrazol-1-yl)-ethylamino-methylene]-sulfamoyl}-phenyl)-2,2,2-trifluoro-acetamide | 1 mol, 7.0 g | BrC1=C(C=CC(=C1)S(N=C(NCC)N1N=CC(C1)(C)C)(=O)=O)NC(C(F)(F)F)=O | C16H19BrF3N5O3S
reactant | potassium carbonate | 5 mol, 10.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 30 mL | O | H2O
solvent | methanol | 225 mL | CO | CH4O
product | 4-amino-3-bromo-N-[(4,4-dimethyl-4,5-dihydro-pyrazol-1-yl)-ethylamino-methylene]-benzenesulfonamide | 4.1 g, 73% | NC1=C(C=C(C=C1)S(=O)(=O)N=C(NCC)N1N=CC(C1)(C)C)Br | C14H20BrN5O2S
